*
*.model Sw Vswitch Roff=1e6 Ron=1 Voff=0 Von=1
*.model Wbreak ISWITCH  Ioff=0 Ion=1e-3 Roff=1e6 Ron=1
*
* For DC and AC analyses, the switch will be Open.
.SUBCKT  Sw_tClose  1  2  PARAMS: 
+ tClose=0     ; time at which switch begins to close
+ ttran=1u     ; time required to switch states (must be realistic, not 0)
+ Rclosed=0.01 ; Closed state resistance
+ Ropen=1Meg   ; Open state resistance (Ropen/Rclosed < 1E10)
V1 3 0 pulse(0 1 {tClose} {ttran} 1 10k 11k)
S1 1 2 3 0 Smod
.model Smod Vswitch(Ron={Rclosed} Roff={Ropen})
.ends
* For DC and AC analyses, the switch will be Closed.
.SUBCKT  Sw_tOpen   1  2  PARAMS: 
+ tOpen=0      ; time at which switch begins to open
+ ttran=1u     ; time required to switch states (must be realistic, not 0)
+ Rclosed=0.01 ; Closed state resistance
+ Ropen=1Meg   ; Open state resistance (Ropen/Rclosed < 1E10)
V1 3 0 pulse(1 0 {tOpen} {ttran} 1 10k 11k)
S1 1 2 3 0 Smod
.model Smod Vswitch(Ron={Rclosed} Roff={Ropen})
.ends
* Example uses:
*   - voltage-controlled capacitor ...	use "variable admittance"
*   - voltage-controlled inductor ...	use "variable impedance"

* Variable admittance: Yout = Yref * V
*           control input: voltage
*           |  reference capacitor/conductance (connect other lead to ground)
*          / \ |  output: floating admittance
*          + - | / \
.subckt yx 1 2 3 4 5
  ecopy  3 6 poly(2) (1,2) (4,5) 0 0 0 0 1
  fout   4 5 vsense 1
  rin    1 2 1G
  vsense 0 6 0
.ends
* Variable impedance: Zout = Zref * V
*           control input: voltage
*           |  reference inductor/resistor (connect other lead to ground)
*          / \ |  output: floating impedance
*          + - | / \
.subckt zx 1 2 3 4 5
  eout   4 6 poly(2) (1,2) (3,0) 0 0 0 0 1
  fcopy  0 3 vsense 1
  rin    1 2 1G
  vsense 6 5 0
.ends