Libreria de Vco's Pspice:
.subckt vco_tri in out
X1 1 2 vco_sqr
Eintg	out	0	Value {SDT(V(sqr)*2*V(freq))}
*gain calculation used in Eintg
Efreq   freq    0       Value {Table(V(in),Vmin,Fcenter-Frange,Vmax,Fcenter+Frange)}
Rfreq	Freq    0       1G
.ends
.subckt vco_sqr in out
X1 1 2 vco_sin
Esqr  	out	0	table {V(sine)} (0,0) (1n,1)
.ends
*
.subckt vco_sin in out Params: Fcenter=1k Frange=50 Vmin=0 Vmax=5 phase=0 

Rin	in	0	1G

Rtable	table	0	1G

Etable	table	0	Value {Table(V(in),Vmin,-1,Vmax,1)}

Esin	out	0	
+Value {sin(6.28318*(Fcenter*time+Frange*SDT(V(table)))+phase*(3.14159/180))}
.ends
