* H:\ELE\SOFT\LtSpice\WinSwCad3Plus\examples\Robertugo\Convert\Tero\Jerarq\TeroJerNe555H3.asc
Ct N001 0 820p
DretInv 0 N003 1N914
Dalim Out Alim555 MURS120
Dpol N005 N004 MBRS1100
Rtoff N001 N002 47K
Rton Alim555 N002 27K
QCtrl PwmCtrl beQctrl 0 0 BC547A
Rd2 beQctrl 0 1K
VLocom N006 0 80v AC 1
RDis N004 Alim555 22k
R_uFan Alim555 0 150
Rbuf N003 Out_555 47
Rbmin N003 0 22
Cf1 OutRect 0 220µ
Cf2 Out 0 220µ
Lf Out OutRect 100µ
Cstart N004 Alim555 47µ
Csnub High 0 1n
D2 N002 N001 1N914
LP N004 High 904µ
LS 0 N007 50µ
Drect N007 OutRect MBR735
Qout High N003 0 0 BU508
Csint N007 0 82n
Rd1 beQctrl OutRect 18K
Rlim N005 N006 2R2
Cps N007 High 10p
Cf3 Alim555 0 220µ
XX1 0 N001 Out_555 Alim555 PwmCtrl N001 N002 Alim555 ne555h3

* block symbol definitions
.subckt ne555h3 1 2 3 4 5 6 7 8
R1 N1 1 5k
R2 5 N1 5k
R3 8 5 5k
S1 1 7 N7 1 DS
S2 8 3 N6 1 OS
S3 3 1 1 N6 OS
R4 1 8 4k
I1 8 4 .4m
D1 4 1 DR
XX3 N2 N3 V+ V- N5 N001 srff
V1 V+ 1 1
XX5 N4 N5 V+ V- N7 orh
XX6 N5 N4 V+ V- N6 norh
XX4 4 V+ V- N4 noth
XX1 6 5 V+ V- N2 comp3
XX2 N1 2 V+ V- N3 comp3
V2 1 V- 1
.model DS VSWITCH(Ron=6 Roff=.75G Vt=.5 Vh=.4 Td=0)
.model OS VSWITCH(Ron=6 Roff=1Meg Vt=0 Vh=.8 Td=0)
.model DR D(Rs=150K)
.ends ne555h3
.subckt srff S R V+ V- Q _Q
R1 S R 1g
XX1 S Q V+ V- _Q norh
XX2 _Q R V+ V- Q norh
.ends srff

.subckt orh A B V+ V- Y
S1 V+ Y A V- SwOr
S2 V+ Y B V- SwOr
RabOr B A 1g
CR_OR Y V- 1p
Rpar Y V- 1k
.MODEL SwOr VSWITCH (VT=.5 VH=0 RON=10 ROFF=1e6)
.ends orh

.subckt norh A B V+ V- Y
S1 V+ N001 V+ A SwNor
S2 N001 Y V+ B SwNor
RabNor B A 1g
CR_Nor Y V- 1p
Rpar Y V- 1k
.MODEL SwNor VSWITCH (VT=.5 VH=0 RON=10 ROFF=1e6)
.ends norh

.subckt noth in V+ V- _Q
S1 _Q V- In V- SwNot
RNotIn In V- 1g
CNot _Q V- 10p
RNotLoad _Q V+ 1k
.MODEL SwNot VSWITCH (VT=.7 VH=1m RON=10 ROFF=1e6)
.ends noth

.subckt comp3 In+ In- V+ V- Out
S1 V+ Out In+ In- CsW
S2 V- Out In- In+ CsW
Rin+- In- In+ 1e9
.model CsW VSWITCH (Ron=1e3 Roff=1G Vt=0 Vh=1m)
.ends comp3

.model D D
.model NPN NPN
.model PNP PNP
.model BU508    NPN(Is=148.5p Xti=3 Eg=1.11 Vaf=100 Bf=43.23 Ise=1.355n
+               Ne=1.413 Ikf=8.245 Nk=.8069 Xtb=1.75 Br=2.131 Isc=529.1p
+               Nc=1.567 Ikr=1.689 Rc=32.64m Cjc=303.6p Mjc=.3333 Vjc=.5 Fc=.5
+               Cje=910.8p Mje=.3333 Vje=.5 Tr=16.1u Tf=22.02n Itf=183.6
+               Xtf=18.91K Vtf=10)
*		case=TOP3
.MODEL BC547A NPN(IS=1.533E-14 ISE=7.932E-16 ISC=8.305E-14 XTI=3
+ BF=178.7 BR=8.628 IKF=0.1216 IKR=0.1121 XTB=1.5
+ VAF=69.7 VAR=44.7 VJE=0.4209 VJC=0.2
+ RE=0.6395 RC=0.6508 RB=1 RBM=1 IRB=1E-06
+ CJE=1.61E-11 CJC=4.388E-12 XCJC=0.6193 FC=0.7762
+ NF=1.002 NR=1.004 NE=1.436 NC=1.207 MJE=0.3071 MJC=0.2793
+ TF=4.995E-10 TR=1E-32 PTF=0 ITF=0.7021 VTF=3.523 XTF=139
+ EG=1.11 KF=1E-9 AF=1)
.model MBRS1100		D(Is=20.6u  Rs=0.0079 N=2.303 Cjo=270p M=.575 Eg=.69 Xti=2)
.model 1N914		D(Is=2.52n  Rs=0.568  N=1.752 Cjo=4p   M=.4   Tt=20n)
.model MURS120		D(Is=33.8n  Rs=0.0236 N=1.718 Cjo=45p  M=.6   Tt=45n)
.model MBR735      	D(Is=159u   Rs=0.02   N=1.76  Cjo=740p M=.6   Eg=.69 Xti=2)
K1 LP LS .995
.tran 1u 4m uic
*.backanno
.Probe
.end
