
* Filename:  BFR92A_SPICE.PRM

* BFR92A SPICE MODEL

* PHILIPS SEMICONDUCTORS

* Date : September 1995

*

* PACKAGE : SOT23 DIE MODEL : BFR90A

* 1: COLLECTOR; 2: BASE; 3: EMITTER;

.SUBCKT BFR92A 1 2 3

Q1 6 5 7 7 BFR90A

* SOT23 parasitic model

               Lb  4 5 .4n 

               Le  7 8 .83n

               L1  2 4 .35n

               L2  1 6 .17n

               L3  3 8 .35n

              Ccb  4 6 71f

              Cbe  4 8 2f

              Cce 6 8 71f

*

* PHILIPS SEMICONDUCTORS                                     Version:   1.0

* Filename:   BFR90A.PRM                                     Date: Feb 1992

*

.MODEL  BFR90A   NPN

+              IS = 4.11877E-016

+              BF = 1.02639E+002

+              NF = 9.97275E-001

+             VAF = 6.26719E+001

+             IKF = 3.20054E+000

+             ISE = 4.01062E-015

+              NE = 1.57708E+000

+              BR = 1.81086E+001

+              NR = 9.96202E-001

+             VAR = 3.36915E+000

+             IKR = 1.28155E+000

+             ISC = 2.79905E-016

+              NC = 1.07543E+000

+              RB = 1.00000E+001

+             IRB = 1.00000E-006

+             RBM = 1.00000E+001

+              RE = 1.16450E+000

+              RC = 2.32000E+000

+              EG = 1.11000E+000

+             XTI = 3.00000E+000

+             CJE = 8.90512E-013

+             VJE = 6.00000E-001

+             MJE = 2.58570E-001

+              TF = 1.54973E-011

+             XTF = 3.91402E+001

+             VTF = 2.15279E+000

+             ITF = 2.13776E-001

+             CJC = 5.46563E-013

+             VJC = 3.80824E-001

+             MJC = 2.02935E-001

.ENDS
