*Digital Display Probe
*
* 05-02-2015 MDB
* Rin eingebaur sonst jamert spice wenn nix angeschlossen ist
.subckt probe_dig 1 2 
Rin 1 0 10meg			
Rout 2 0 {670/vpwr$_digital}
g1 0 2 1 0 1m
i1 0 2 {(T+0.05)*vpwr$_digital*1.492537m}  
.param T=0
.ends
*