.SUBCKT LM3886-2 InPos InNeg OUT Vpos Vneg MUTE GndPin

* G:\SwCADIII\lib\sym\EXTRA\AudioOpamp\NS\LM3886_MV2LT1363TRANSasc-1.asc
Q1 Vpos InNeg N023 0 2N3904
Q2 Vpos N003 N006 0 NPN
Q3 N010 GndPin N009 0 2N3904
Q4 Vpos N006 N013 0 NPN
Q5 N021 N032 N034 0 NPN
Q6 N028 N031 N033 0 NPN
Q7 N021 N029 N032 0 NPN
Q9 N026 N030 N035 0 BF720
Q10 N027 N030 N036 0 BF720
Q11 Vpos N026 N030 0 BF720
Q12 Vpos N027 N031 0 NPN
Q13 N015 N010 N007 0 2N3906
Q14 N016 N011 N007 0 2N3906
Q15 N026 N023 N022 0 BF721
Q16 N026 N020 N018 0 2N3906
Q18 N027 N019 N017 0 2N3906
R1 N015 N022 1k1
D1 N004 N010 D
D2 N001 N004 D
R2 Vpos N001 1k
R3 N009 N008 1k
D3 N008 P001 D
D4 P001 MUTE D
R4 N016 N017 4k7
R5 N016 N018 4k7
R6 N019 GndPin 10k
D5 N005 N011 D
D6 N002 N005 D
R7 Vpos N002 1k
Q19 N027 N025 N024 0 BF721
R8 N015 N024 1k1
R9 N035 Vneg 2k2
R10 N036 Vneg 2k2
R11 N033 Vneg 800
D7 N029 N033 D
R12 N034 Vneg 0.45
R13 N032 Vneg 150
R14 N006 N021 150
R15 N013 N021 0.45
D8 N003 N012 D
D9 N012 N014 D
D10 N014 N028 D
Q20 N029 N028 N021 0 PNP
R16 N021 N020 10k
C1 N021 N027 10pF
D11 N020 GndPin D
D12 GndPin N020 D
I1 N023 Vneg 0.5mA
I2 N025 Vneg 0.5mA
I3 N030 Vneg 10mA
I4 N031 Vneg 5mA
I5 N011 Vneg 1mA
Q17 Vpos InPos N025 0 2N3904
I6 Vpos N003 10mA
I7 Vpos N007 1mA
R19 OUT N021 0.0001
.model D D
*.lib G:\SwCADIII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
*.lib G:\SwCADIII\lib\cmp\standard.bjt
*.backanno

*.model 2N3904 NPN
*.model 2N3906 PNP
*.model BF720 NPN
*.model BF721 PNP

.model 2N3904 NPN(IS=1E-14 VAF=100 Bf=300 IKF=0.4 XTB=1.5 BR=4 CJC=4E-12 CJE=8E-12 RB=20 RC=0.1 RE=0.1 TR=250E-9 TF=350E-12 ITF=1 VTF=2 XTF=3 Vceo=40 Icrating=200m mfg=Philips)
.model 2N3906 PNP(IS=1E-14 VAF=100 BF=200 IKF=0.4 XTB=1.5 BR=4 CJC=4.5E-12 CJE=10E-12 RB=20 RC=0.1 RE=0.1 TR=250E-9 TF=350E-12 ITF=1 VTF=2 XTF=3 Vceo=40 Icrating=200m mfg=Philips)
.MODEL BF720 NPN(
+       AF= 1.00E+00    BF= 1.23E+02    BR= 5.61E+00   CJC= 5.49E-12
+      CJE= 4.19E-11   CJS= 0.00E+00    EG= 1.11E+00    FC= 5.00E-01
+      IKF= 4.09E-02   IKR= 1.00E+00   IRB= 2.42E-02    IS= 6.46E-16
+      ISC= 2.89E-14   ISE= 2.80E-17   ITF= 2.65E+00    KF= 0.00E+00
+      MJC= 5.21E-01   MJE= 3.90E-01   MJS= 3.30E-01    NC= 1.03E+00
+       NE= 1.00E+00    NF= 9.11E-01    NR= 1.86E+00   PTF= 0.00E+00
+       RB= 4.64E+01   RBM= 2.17E+01    RC= 4.08E-01    RE= 4.41E-01
+       TF= 1.13E-09    TR= 0.00E+00   VAF= 4.15E+02   VAR= 4.30E+02
+      VJC= 3.00E-01   VJE= 3.00E-01   VJS= 7.50E-01   VTF= 8.76E+05
+     XCJC= 1.00E+00   XTB= 0.00E+00   XTF= 6.01E+02   XTI= 3.00E+00)

.MODEL BF721 PNP(
+       AF= 1.00E+00    BF= 1.40E+02    BR= 1.00E-02   CJC= 1.65E-11
+      CJE= 4.20E-11   CJS= 0.00E+00    EG= 1.11E+00    FC= 5.00E-01
+      IKF= 2.41E-02   IKR= 1.00E+00   IRB= 1.10E-02    IS= 5.35E-16
+      ISC= 1.00E-13   ISE= 9.81E-17   ITF= 3.00E+00    KF= 0.00E+00
+      MJC= 7.00E-01   MJE= 4.13E-01   MJS= 3.30E-01    NC= 2.00E+00
+       NE= 1.03E+00    NF= 8.73E-01    NR= 9.84E-01   PTF= 0.00E+00
+       RB= 1.99E+01   RBM= 2.41E-02    RC= 2.22E+00    RE= 1.85E-02
+       TF= 1.11E-09    TR= 0.00E+00   VAF= 1.49E+02   VAR= 9.18E+01
+      VJC= 3.00E-01   VJE= 3.00E-01   VJS= 7.50E-01   VTF= 9.99E+05
+     XCJC= 1.00E+00   XTB= 0.00E+00   XTF= 5.76E+02   XTI= 3.00E+00)


.ends
