* LM3886 OPAMP MACRO MODEL (INTERMEDIATE LEVEL)
*
* IN+ IN- OUT VCC VEE
.SUBCKT LM3886 1 2 81 101 102 
Q1 5 1 7 NPN
Q2 6 2 8 NPN
RC1 101 5 377.99
RC2 101 6 377.99
RE1 7 4 357.99
RE2 8 4 357.99
I1 4 102 0.001 
*
* OPEN-LOOP GAIN, FIRST POLE AND SLEW RATE
G1 100 10 6 5 0.002645552
RP1 10 100 37.8MEG
CP1 10 100 0.0000526316UF
*
*OUTPUT STAGE
EOUT 80 100 10 100 1
RO 80 81 100
*
* INTERNAL REFERENCE
RREF1 101 103 100K
RREF2 103 102 100K
EREF 100 0 103 0 1
R100 100 0 1MEG
*
.model NPN NPN(BF=50000)
*
.ENDS LM3886
